US07799923B2
To a solution of 1.00 g (2.4 mmol) of 7-bromomethyl-5-chloro-indole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester in DMSO (10 ml) at RT, 012 g of sodium cyanide was added. The reaction mixture was stirred at RT for one hour, poured on a saturated aqueous ammonium chloride solution and the product was extracted with EtOAc. The combined organic phases were dried over Na2SO4 and concentrated in vacuo. Flash chromatography (SiO2, EtOAc/Hex 9/1) afforded 0.31 g (36%) of 5-chloro-7-cyanomethyl-indole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester as a light yellow oil.

reactant | 7-bromomethyl-5-chloro-indole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 2.4 mmol, 1.00 g | CCOC(=O)C=1N(C2=C(C=C(C=C2C1)Cl)CBr)C(=O)OC(C)(C)C | C17H19BrClNO4
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 5-chloro-7-cyanomethyl-indole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 0.31 g, 36% | CCOC(=O)C=1N(C2=C(C=C(C=C2C1)Cl)CC#N)C(=O)OC(C)(C)C | C18H19ClN2O4
